US06531492B1
2-(5-Cyclohexyl-3-difluoromethyl-pyrazol-1-yl)-5-methanesulfonyl-pyridine (Step 2)
2-Hydrazino-5-(methylsulfonyl)pyridine hydrochloride (448 mg, 2 mmol) and TFA (1.38 mL, 18 mmol) were mixed in trifluoroethanol (10 mL) and stirred for 5 minutes 4,4-Difluoro-1-cyclohexyl-1,3-butanedione (408 mg, 2 mmol) was added. The resulting reaction mixture was heated at reflux temperature for 60 hours. The solvent was then removed in vacuo, and the residue was partitioned between EtOAc and water. The organic layer was washed with brine and concentrated in vacuo. The product was purified by recrystallization from 3:1 of isooctane:methylene chloride to give the title compound (346 mg, 49%).

reactant | 2-Hydrazino-5-(methylsulfonyl)pyridine hydrochloride | 2 mmol, 448 mg | Cl.N(N)C1=NC=C(C=C1)S(=O)(=O)C
reactant | TFA | 18 mmol, 1.38 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4,4-Difluoro-1-cyclohexyl-1,3-butanedione | 2 mmol, 408 mg | FC(C(CC(=O)C1CCCCC1)=O)F | C10H14F2O2
solvent | trifluoroethanol | 10 mL | C(C(F)(F)F)O | C2H3F3O
product | 2-(5-Cyclohexyl-3-difluoromethyl-pyrazol-1-yl)-5-methanesulfonyl-pyridine | 346 mg, 49% | C1(CCCCC1)C1=CC(=NN1C1=NC=C(C=C1)S(=O)(=O)C)C(F)F | C16H19F2N3O2S
